* Arm A oscillator 6: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 6: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 30.7116
Cg0 i1_A 0 1.296960e-16
Cg1 nand_Y 0 1.296960e-16
Cc0 i1_A nand_B 7.481640e-17
Cx0 i1_A 0 6.905290e-17
Cx1 i1_A 0 6.749110e-17
Rn1_1 i1_Y i2_A 30.1134
Cg2 i2_A 0 1.113860e-16
Cg3 i1_Y 0 1.113860e-16
Cc1 i2_A i5_A 6.978530e-17
Cx2 i2_A 0 1.489110e-16
Cx3 i2_A 0 1.895960e-17
Rn10_2 i10_Y i11_A 29.8545
Cg4 i11_A 0 9.641900e-17
Cg5 i10_Y 0 9.641900e-17
Cc2 i11_A i12_A 2.808530e-17
Cx4 i11_A 0 4.350480e-17
Cx5 i11_A 0 1.281540e-16
Rn11_3 i11_Y i12_A 20.8277
Cg6 i12_A 0 9.755470e-17
Cg7 i11_Y 0 9.755470e-17
Cc3 i12_A i13_A 1.315840e-16
Rn12_4 i12_Y i13_A 23.6402
Cg8 i13_A 0 2.560520e-16
Cg9 i12_Y 0 2.560520e-16
Cc4 i13_A i14_A 8.625970e-17
Cc5 i13_A i15_A 8.274380e-17
Rn13_5 i13_Y i14_A 20.8277
Cg10 i14_A 0 1.105040e-16
Cg11 i13_Y 0 1.105040e-16
Cc6 i14_A i15_A 8.212480e-18
Rn14_6 i14_Y i15_A 30.9795
Cg12 i15_A 0 1.729210e-16
Cg13 i14_Y 0 1.729210e-16
Cc7 i15_A i16_A 1.377430e-17
Cx6 i15_A 0 2.808530e-17
Cx7 i15_A 0 7.275400e-17
Cx8 i15_A 0 5.037870e-17
Rn15_7 i15_Y s1590_4 9.3000
Rn15_8 s1590_4 i16_A 15.4607
Rn15_9 s1590_4 buf_A 12.0054
Cg14 buf_A 0 1.648310e-16
Cg15 i16_A 0 3.420570e-16
Cg16 i15_Y 0 0.000000e+00
Cg17 s1590_4 0 5.068880e-16
Cc8 i16_A i17_A 5.669840e-17
Cx9 i16_A 0 4.209400e-17
Cx10 buf_A 0 1.402400e-17
Cx11 i16_A 0 1.548090e-16
Cx12 i16_A 0 2.231040e-17
Rn16_10 i16_Y i17_A 32.5777
Cg18 i17_A 0 3.061440e-16
Cg19 i16_Y 0 3.061440e-16
Cc9 i17_A i18_A 4.714640e-17
Cx13 i17_A 0 1.513330e-16
Rn17_11 i17_Y i18_A 21.2563
Cg20 i18_A 0 1.259750e-16
Cg21 i17_Y 0 1.259750e-16
Cc10 i18_A i19_A 2.771470e-17
Cc11 i18_A i20_A 0.000000e+00
Rn18_12 i18_Y i19_A 21.1313
Cg22 i19_A 0 1.249640e-16
Cg23 i18_Y 0 1.249640e-16
Cc12 i19_A i20_A 3.028690e-17
Cc13 i19_A i21_A 0.000000e+00
Rn19_13 i19_Y i20_A 21.3813
Cg24 i20_A 0 1.300630e-16
Cg25 i19_Y 0 1.300630e-16
Cc14 i20_A i21_A 3.028690e-17
Cc15 i20_A i22_A 4.192580e-17
Rn2_14 i2_Y i3_A 21.4348
Cg26 i3_A 0 2.045720e-16
Cg27 i2_Y 0 2.045720e-16
Cc16 i3_A i4_A 4.955340e-17
Cc17 i3_A i5_A 2.378980e-17
Rn20_15 i20_Y i21_A 21.1313
Cg28 i21_A 0 1.195680e-16
Cg29 i20_Y 0 1.195680e-16
Cc18 i21_A i22_A 3.852600e-17
Rn21_16 i21_Y i22_A 31.0866
Cg30 i22_A 0 2.441640e-16
Cg31 i21_Y 0 2.441640e-16
Cc19 i22_A i23_A 2.808530e-17
Cc20 i22_A i24_A 3.690470e-18
Cx14 i22_A 0 0.000000e+00
Rn22_17 i22_Y i23_A 20.8277
Cg32 i23_A 0 1.215970e-16
Cg33 i22_Y 0 1.215970e-16
Cc21 i23_A i24_A 2.150700e-17
Rn23_18 i23_Y i24_A 30.5688
Cg34 i24_A 0 1.875180e-16
Cg35 i23_Y 0 1.875180e-16
Cc22 i24_A i25_A 3.000230e-17
Cx15 i24_A 0 0.000000e+00
Rn24_19 i24_Y i25_A 20.8277
Cg36 i25_A 0 1.188080e-16
Cg37 i24_Y 0 1.188080e-16
Cc23 i25_A i26_A 2.307080e-17
Rn25_20 i25_Y i26_A 29.8098
Cg38 i26_A 0 1.585520e-16
Cg39 i25_Y 0 1.585520e-16
Cc24 i26_A i27_A 1.145480e-17
Cc25 i26_A i5_A 0.000000e+00
Cx16 i26_A 0 0.000000e+00
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 1.678380e-16
Cg41 i26_Y 0 1.678380e-16
Cc26 i27_A i28_A 1.783350e-17
Rn27_22 i27_Y i28_A 30.9795
Cg42 i28_A 0 1.841640e-16
Cg43 i27_Y 0 1.841640e-16
Cx17 i28_A 0 5.485810e-17
Cx18 i28_A 0 7.189820e-17
Rn28_23 i28_Y i29_A 19.4973
Cg44 i29_A 0 3.355400e-17
Cg45 i28_Y 0 3.355400e-17
Cx19 i29_A 0 9.572150e-17
Rn29_24 i29_Y i30_A 19.9080
Cg46 i30_A 0 4.891210e-17
Cg47 i29_Y 0 4.891210e-17
Cx20 i30_A 0 1.395340e-16
Rn3_25 i3_Y i4_A 20.6982
Cg48 i4_A 0 9.794110e-17
Cg49 i3_Y 0 9.794110e-17
Cc27 i4_A i5_A 4.714640e-17
Rn30_26 i30_Y nand_B 31.3411
Cg50 nand_B 0 2.265450e-16
Cg51 i30_Y 0 2.265450e-16
Cc28 EN nand_B 2.826600e-18
Cx21 nand_B 0 5.523020e-17
Cx22 nand_B 0 3.885020e-17
Cx23 nand_B 0 0.000000e+00
Rn4_27 i4_Y i5_A 32.6670
Cg52 i5_A 0 2.658690e-16
Cg53 i4_Y 0 2.658690e-16
Cx24 i5_A 0 8.988970e-17
Rn5_28 i5_Y i6_A 21.8902
Cg54 i6_A 0 2.145070e-16
Cg55 i5_Y 0 2.145070e-16
Cc29 i6_A i7_A 7.977300e-17
Cc30 i6_A i8_A 3.332380e-17
Rn6_29 i6_Y i7_A 20.8277
Cg56 i7_A 0 1.122050e-16
Cg57 i6_Y 0 1.122050e-16
Cc31 i7_A i8_A 1.965170e-17
Rn7_30 i7_Y i8_A 33.0554
Cg58 i8_A 0 2.672800e-16
Cg59 i7_Y 0 2.672800e-16
Cc32 i8_A i9_A 4.868200e-17
Cx25 i8_A 0 2.228780e-16
Cx26 i8_A 0 8.048200e-17
Rn8_31 i8_Y i9_A 19.4973
Cg60 i9_A 0 4.314950e-17
Cg61 i8_Y 0 4.314950e-17
Rn9_32 i9_Y i10_A 19.4973
Cg62 i10_A 0 5.491110e-17
Cg63 i9_Y 0 5.491110e-17
Rout_33 buf_X s1615_8 48.0143
Cg64 buf_X 0 1.962460e-15
Cg65 s1615_8 0 2.066480e-15
Cx27 s1615_8 0 6.627180e-16
Cx28 s1615_8 0 1.374930e-17
Cx29 s1615_8 0 6.490420e-17
Cx30 s1615_8 0 2.969970e-17
Cx31 s1615_8 0 7.412310e-17
Cx32 s1615_8 0 8.293650e-18
Cx33 s1615_8 0 1.377430e-17
Cx34 s1615_8 0 4.429220e-17
Cx35 s1615_8 0 9.294720e-18
Cx36 s1615_8 0 1.266740e-16
Cx37 s1615_8 0 2.405910e-16
Cx38 s1615_8 0 8.840910e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
